US04556713
Solutions of 1.7 g sodium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate in 40 ml warm water and 2 g calcium chloride in 20 ml warm water were stirred together, heated on a steam bath for 15 minutes and cooled about 16 hours. The product was separated by filtration, washed with water and dried to provide light pink calcium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate hydrate, m.p. >300° C. Analysis: Calculated for (C14H10BrFNO3)2Ca.1/2H2O: %C, 45.7; %H, 3.0; %N, 3.8; Found: %C, 45.7; %H, 3.2; %N, 3.8. The structural assignment was confirmed by infrared spectral analysis.

reactant | sodium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | 1.7 g | BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)[O-])=O)F.[Na+]
reactant | calcium chloride | 2 g | [Cl-].[Ca+2].[Cl-]
solvent | water | O | H2O
product | calcium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate hydrate | O.BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)[O-])=O)F.[Ca+2].BrC2=C(C=C3C(C(=CN1C(CCC2=C31)C)C(=O)[O-])=O)F | InChI=1S/2C14H11BrFNO3.Ca.H2O/c2*1-6-2-3-7-11(15)10(16)4-8-12(7)17(6)5-9(13(8)18)14(19)20;;/h2*4-6H,2-3H2,1H3,(H,19,20);;1H2/q;;+2;/p-2
